US09085555B2
A. 3-Bromo-5-methyl-1H-pyrazolo[3,4-c]pyridine
5-Methyl-1H-pyrazolo[3,4-c]pyridine (2 g, 15.02 mmol) and bromine (0.774 mL, 15.02 mmol) in water (71.5 mL) were stirred at RT for 1 h. The reaction mixture was neutralized with NaOH (20% in water), the precipitate was filtered, washed with water and dried under high vacuum. Yellow powder, MS (UPLC/MS): 212/214 [M+H]+, 210/212 [M−H]−; tR (HPLC conditions f): 0.74 min.

reactant | 5-Methyl-1H-pyrazolo[3,4-c]pyridine | 15.02 mmol, 2 g | CC=1C=C2C(=CN1)NN=C2 | C7H7N3
reactant | bromine | 15.02 mmol, 0.774 mL | BrBr | Br2
reactant | NaOH | [OH-].[Na+]
solvent | water | 71.5 mL | O | H2O
product | 3-Bromo-5-methyl-1H-pyrazolo[3,4-c]pyridine | BrC1=NNC2=CN=C(C=C21)C | C7H6BrN3
